US07420055B2
N-[4-Chloro-2-(pyridine-4-carbonyl)-phenyl]-4-((4R,5S)-2,4,5-trimethyl-[1,3]dioxolan-2-yl)-benzenesulfonamide
The title compound was prepared using 4-Acetyl-N-[4-chloro-2-(hydroxy-pyridin-4-yl-methyl)-phenyl]-benzenesulfonamide and (2R,3S)-Butane-2,3-diol following the procedure described in the preceding two examples. MS: m/z 487 M++1).

reactant | 4-Acetyl-N-[4-chloro-2-(hydroxy-pyridin-4-yl-methyl)-phenyl]-benzenesulfonamide | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)Cl)C(C1=CC=NC=C1)O | C20H17ClN2O4S
reactant | (2R,3S)-Butane-2,3-diol | C[C@H]([C@H](C)O)O | C4H10O2
product | N-[4-Chloro-2-(pyridine-4-carbonyl)-phenyl]-4-((4R,5S)-2,4,5-trimethyl-[1,3]dioxolan-2-yl)-benzenesulfonamide | ClC1=CC(=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)C1(O[C@H]([C@H](O1)C)C)C)C(=O)C1=CC=NC=C1 | C24H23ClN2O5S
